US06087380
1-Methyl-2-[N-[4-(N-n-butyloxycarbonylamidino)-phenyl]-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and n-butyl chloroformate. Yield: 34% of theory, C33H39N7O5 (613.7) ##EQU90##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | n-butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
product | 1-Methyl-2-[N-[4-(N-n-butyloxycarbonylamidino)-phenyl]-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 34% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(NC(=O)OCCCC)=N)C)C=C1)CCC(=O)OCC | C33H39N7O5
